US07157488B2
2-(3-(4-Fluorophenoxy)phenyl-(1,3)dioxolane
Combine 4-fluorophenol (3.0 g, 227.8 mmol), 2-(3-bromophenyl)-1,3-dioxolane (5.0 ml, 33.3 mmol), potassium carbonate (anhydrous, 8.0 g, 55.6 mmol), and dry pyridine (50 ml). Heat to 90° C. and add copper oxide (5.5 g, 69.5 mmol). Heat at reflux. After 24 hours, cool to room temperature, dilute with dichloromethane, and filter. Concentrate the filtrate in vacuum to give a yellow oil. Chromatograph the oil on silica gel eluting with 95:5 hexane:EtOAc to give the title compound.

reactant | 4-fluorophenol | 227.8 mmol, 3.0 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | 2-(3-bromophenyl)-1,3-dioxolane | 33.3 mmol, 5.0 ml | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | potassium carbonate | 55.6 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper oxide | 69.5 mmol, 5.5 g | [Cu]=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3-(4-Fluorophenoxy)phenyl-(1,3)dioxolane | FC1=CC=C(OC=2C=C(C=CC2)C2OCCO2)C=C1 | C15H13FO3
